US04067903
288 parts of β-naphthol, 6 parts of diphenyl phosphite and 115 parts of ethylamine gas are heated at 230° C in a pressure autoclave for 10 hours. The pressure is 35 atmospheres. The mixture is added to 2,000 parts of water and the batch is stirred for 30 minutes at 70° - 80° C. The lower oily phase is separated off and distilled. 314 parts of N-ethyl-β-naphthylamine boiling at 119° - 120° C/0.1 mm Hg are obtained, corresponding to a yield of 92% of theory.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | diphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | N-ethyl-β-naphthylamine | yield of 92% | C(C)NC1=CC2=CC=CC=C2C=C1 | C12H13N
